US08247610B2
a) 2-{5-[(4-tert-Butyl-benzyl)-(3-methyl-butyl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester
A solution of 2-[5-(4-tert-Butyl-benzylamino)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester, compound 37a, (0.06 g, 0.11 mmol), isovaleraldehyde (0.36 mL, 3.3 mmol), AcOH (0.01 mL) in DCM (10 mL) was stirred at room temperature overnight. NaCNBH4 (0.01 g, 0.16 mmol) added and resulting solution was stirred 30 min. The crude product was purified by TLC plate to give the title compound at 50% yield. Calcd MW 595.8. Found MH+ 596.4.

reactant | 2-[5-(4-tert-Butyl-benzylamino)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)NCC1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C32H38F3NO2
reactant | isovaleraldehyde | 3.3 mmol, 0.36 mL | C(CC(C)C)=O | C5H10O
reactant | AcOH | 0.01 mL | CC(=O)O | C2H4O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{5-[(4-tert-Butyl-benzyl)-(3-methyl-butyl)-amino]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 50% yield | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)N(CCC(C)C)CC1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(F)(F)F)=O | C37H48F3NO2
